US05849216
5-[2-(9-Decenyloxy)pyrid-5-yl]-2-phenylpyrimidine
The synthesis was carried out analogously to Example 27 from 2-phenyl-5-bromopyrimidine and 2-decenyloxypyridine-5-boronic acid.

reactant | 2-phenyl-5-bromopyrimidine | C1(=CC=CC=C1)C1=NC=C(C=N1)Br | C10H7BrN2
reactant | 2-decenyloxypyridine-5-boronic acid | C(=CCCCCCCCC)OC1=NC=C(C=C1)B(O)O | C15H24BNO3
product | 5-[2-(9-Decenyloxy)pyrid-5-yl]-2-phenylpyrimidine | C(CCCCCCCC=C)OC1=NC=C(C=C1)C=1C=NC(=NC1)C1=CC=CC=C1 | C25H29N3O
